US07576215B2
4-PHENYL-3-(1-PHENYLVINYL)-8-(TRIFLUOROMETHYL)QUINOLINE
1-phenyl-1-[4-phenyl-8-(trifluoromethyl)quinolin-3-yl]ethanol (0.675 g, 1.72 mmol) in EtOH (13 mL) is refluxed with conc HCl (2.6 mL) for 2 h. The cooled reaction is poured into water and extracted with methylene chloride. The extract is washed with saturated aq sodium bicarbonate, dried (MgSO4) and concentrated. The residue is chromatographed eluting with 5:95 ethyl acetate:hexane to afford the title compound as a yellow solid (0.546 g, 85%). MS (ESI) m/z 376; HRMS: calcd for C24H16F3N+H, 376.13131; found (ESI, [M+H]+), 376.1306.

reactant | 1-phenyl-1-[4-phenyl-8-(trifluoromethyl)quinolin-3-yl]ethanol | 1.72 mmol, 0.675 g | C1(=CC=CC=C1)C(C)(O)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C24H18F3NO
reactant | HCl | 2.6 mL | Cl | ClH
reactant | water | O | H2O
solvent | EtOH | 13 mL | CCO | C2H6O
product | 4-PHENYL-3-(1-PHENYLVINYL)-8-(TRIFLUOROMETHYL)QUINOLINE | 0.546 g, 85% | C1(=CC=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=C)C1=CC=CC=C1 | C24H16F3N
